US04187216
2.15 g (0.0064 mol) of L-alanyl-L-proline n-pentylamide was dissolved in 40 ml of dry pyridine and 3.6 ml of propionic anhydride were added to the solution. The mixture was stirred at room temperature for 1.5 hours. The solution was then evaporated to an oil which was dissolved in 150 ml of chloroform and washed with 50 ml of 5% citric acid solution, 50 ml of water and 50 ml of 5% sodium bicarbonate solution. The organic phase was dried over magnesium sulphate and evaporated to an oil. This oil was crystallised from ethyl acetate/petroleum ether to give 1.16 g of N-propionyl-L-alanyl-L-proline n-pentylamide of melting point 105°-108° C.; [α]D20 =-151.7° (c=1.114% in water).

reactant | L-alanyl-L-proline n-pentylamide | 0.0064 mol, 2.15 g | C(CCCC)NC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O | C13H25N3O2
reactant | propionic anhydride | 3.6 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-propionyl-L-alanyl-L-proline n-pentylamide | 1.16 g | C(CCCC)NC([C@H]1N(CCC1)C([C@@H](NC(CC)=O)C)=O)=O | C16H29N3O3
